US09290485B2
1-(4-((1H-1,2,3-triazol-1-yl)methyl)benzyl)-N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1H-pyrazole-4-carboxamide
A suspension of [5-({[1-(4-Chloromethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester (100 mg, 0.207 mmol, prepared according to step a) of example 17), sodium azide (13.43 mg, 0.207 mmol), ethynyltrimethylsilane (20.29 mg, 0.207 mmol), DIPEA (3.61 μL, 0.021 mmol), copper sulfate (3.30 mg, 0.021 mmol) and sodium ascorbate (4.09 mg, 0.021 mmol) in 2.5 mL of DMSO and 0.5 mL of water was stirred for 3 hours at 60° C. The mixture was allowed to cool to room temperature, was diluted with ethyl acetate and washed with water. The organic solution was concentrated under reduced pressure. The residue was dissolved in mL of methanol and 2 mL of concentrated aqueous HCl was added. This solution was stirred for 2 hours at 60° C. The volatiles were evaporated under reduced pressure. The residue was adjusted to basic pH with 1N NaOH. The resulting aqueous solution was extracted with ethyl acetate. The organic solution was dried of MgSO4, filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC (Macherey Nagel C18 100×10 mm, Flow 40 mL/min, ACN/water (0.1% TFA) 5/95 over 2 min, then ACN/water (0.1% TFA) 5/95-100/0 over 15 min). The fractions containing product were pooled, freeze-dried and redissolved in methanol. This solution was filtered over a methanol-flushed PL-HCO3-MP resin column, which was subsequently washed twice with 5 mL methanol. The methanolic solution was concentrated under reduced pressure. The residue was taken up in ACN—water and freeze dried to afford the title compound. LCMS (Method A) RtA=0.316; [M+H]+=417.1.

reactant | [5-({[1-(4-Chloromethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CCl)C)=O | C25H30ClN5O3
reactant | sodium azide | 0.207 mmol, 13.43 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethynyltrimethylsilane | 0.207 mmol, 20.29 mg | C(#C)[Si](C)(C)C | C5H10Si
reactant | DIPEA | 0.021 mmol, 3.61 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium ascorbate | 0.021 mmol, 4.09 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | water | 0.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper sulfate | 0.021 mmol, 3.30 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-(4-((1H-1,2,3-triazol-1-yl)methyl)benzyl)-N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1H-pyrazole-4-carboxamide | N1(N=NC=C1)CC1=CC=C(CN2N=CC(=C2)C(=O)NCC=2C(=NC(=CC2C)N)C)C=C1 | C22H24N8O
